US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-morpholin-4-yl-propyl)-1H-imidazol-4-yl]-amide
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-oxo-propyl)-1H-imidazol-4-yl]-amide was reacted with morpholine to afford the title compound: MS m/z 492.2 (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-oxo-propyl)-1H-imidazol-4-yl]-amide | CC(CC=O)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H26F2N4O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(1,1-dimethyl-3-morpholin-4-yl-propyl)-1H-imidazol-4-yl]-amide | CC(CCN1CCOCC1)(C)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C25H35F2N5O3
